US07544637B2
1.1: 2-Methyl-1-nitro-3-propylsulfanylbenzene
400 g (2.63 mol) of 2-methyl-3-nitroaniline, 655 g (4.35 mol) of dipropyl disulfide, 30 g (0.47 mol) of copper powder were suspended in 1000 ml of chloroform and heated to 70 to 75° C. Then, over the course of 70 min, 339 g (3.28 mol) of n-butyl nitrite were added dropwise. The mixture was stirred at 75 to 80° C. for 4 h. The reaction mixture was cooled to room temperature and then washed three times with 1000 ml of concentrated hydrochloric acid, twice with 20% strength aqueous sodium hydroxide solution and once with saturated sodium chloride solution. After drying over magnesium sulfate, the solvent was distilled off in vacuo. The result was a dark oil which was purified by vacuum distillation (b.p. 127° C./1.2 mbar). Yield: 267 g (48% of theory) of the desired product. 1H NMR (in CDCl3): δ=1.05 ppm (t, 3H, aliph. Me), 1.7 ppm (m, 2H, aliph. CH2), 2.9 ppm (t, 2H, S CH2), 7.3 ppm (m, 1H, arom. H), 7.45 ppm (d, 1H, arom. H), 7.5 ppm (d, 1H, arom. H).

reactant | 2-methyl-3-nitroaniline | 2.63 mol, 400 g | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | dipropyl disulfide | 4.35 mol, 655 g | C(CC)SSCCC | C6H14S2
reactant | n-butyl nitrite | 3.28 mol, 339 g | N(=O)OCCCC | C4H9NO2
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | copper | 0.47 mol, 30 g | [Cu] | Cu
product | 2-Methyl-1-nitro-3-propylsulfanylbenzene | CC1=C(C=CC=C1SCCC)[N+](=O)[O-] | C10H13NO2S
